US07285572B2
(R)-2-[[1-(2-iodophenyl)ethoxy]methyl]oxirane
2-Iodoacetophenone (6.30 g) was dissolved in methanol (50 ml), sodium borohydride (726 mg) was added and the mixture was stirred at room temperature for 1.5 hr. 10% Aqueous citric acid was added to the reaction mixture and ethanol was evaporated. Water was added and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and brine, and dried over sodium sulfate. The organic layer was concentrated under reduced pressure and the obtained residue was dissolved in tetrahydrofuran (50 ml). The solution was cooled to 0° C., sodium hydride (1.54 g, 60% in oil), (R)-glycidyl nosylate (9.95 g) and dimethyl sulfoxide (10 ml) were successively added, and the mixture was stirred overnight at 0° C.—room temperature. 10% Aqueous citric acid was added to neutralize the reaction mixture, and extracted 3 times with ethyl acetate. The organic layer was washed successively with water (twice) and brine, and dried over sodium sulfate. The organic layer was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (6.36 g).

reactant | 2-Iodoacetophenone | 6.30 g | ICC(=O)C1=CC=CC=C1 | C8H7IO
reactant | sodium borohydride | 726 mg | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethanol | C(C)O | C2H6O
reactant | methanol | 50 ml | CO | CH4O
product | (R)-2-[[1-(2-iodophenyl)ethoxy]methyl]oxirane | 6.36 g | IC1=C(C=CC=C1)C(C)OC[C@@H]1OC1 | C11H13IO2
